US08193199B2
8-Fluoroquinolin-2(1H)-one (26 g, 159 mmol) was slurried phosphoryl trichloride (163 mL, 1753 mmol, 11 eq) and heated to 125 for 2 h. The reaction was cooled to rt and poured onto 1.2 L of ice water with vigorous stirring. When mixture had cooled to rt, the orange solid was filtered and washed with water and dried under vacuum overnight to afford 27 g of crude material. The crude material was recrystallized from hexanes by dissolving in ˜700 mL of hexanes at reflux and decanting away from residual tar. The hexane solution was cooled to 0° C. and the precipitate 2-chloro-8-fluoroquinoline was filtered. The mother liquor was concentrated in vacuo and recrystallized from hexanes to obtain a second crop of 2-chloro-8-fluoroquinoline. 1H NMR (400 MHz, CDCl3) δ ppm 8.14 (dd, J=8.6, 1.2 Hz, 1H), 7.62 (br d, 1H), 7.52 (td, J=7.8, 4.7 Hz, 1H), 7.45 (m, 2H). 1-(2-Chloro-8-fluoroquinolin-3-yl)ethanol

reactant | 8-Fluoroquinolin-2(1H)-one | 159 mmol, 26 g | FC=1C=CC=C2C=CC(NC12)=O | C9H6FNO
reactant | phosphoryl trichloride | 1753 mmol, 163 mL, 11 eq | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-8-fluoroquinoline | ClC1=NC2=C(C=CC=C2C=C1)F | C9H5ClFN
